2181-03-01 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 85 year old man, recently discharged from the
   intensive care unit, with history of prior DVT (now s/p IVC filter),
   HTN, CKD on HD, right lower extremity dry gangrene, presenting from
   clinic with hypotension and a pneumonia.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2181-2-28**] 07:00 PM
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-3-1**] 05:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-1**] 06:10 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-1**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 83 (75 - 87) bpm
   BP: 107/63(74) {75/33(48) - 130/72(85)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 97%
             Total In:
                                                                  1,156 mL
                                                                    217 mL
   PO:
             TF:
   IVF:
                                                                  1,156 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     25 mL
   Urine:
   25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,156 mL
                                                                    192 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: Elderly man, decorticate posturing, but moving upper
   extremities
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No Neck:
   supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales,
   ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: cool feet bilaterally w/ right foot gangrene, LLE swelling w/ +2
   edema, not able to palpate pedal pulses; doplerable LLE dp/pt and R dp.
   Labs / Radiology
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
   TropT
   0.24
   Other labs: PT / PTT / INR:14.7/30.1/1.3, CK / CKMB /
   Troponin-T:65/4/0.24
   Imaging: CHEST (PORTABLE AP) Study Date of [**2181-2-28**] 12:55 PM
   SINGLE UPRIGHT AP VIEW OF THE CHEST: Allowing for low lung volumes,
   there is mild crowding of the pulmonary vasculature. There is haziness
   and
   indistinctness of the left heart border which may be related to
   overlying soft
   tissues or crowding of the pulmonary vasculature, but infiltrate cannot
   be
   excluded. Linear opacity in the right lower lobe is stable and likely
   related
   to atelectasis.
   The heart size is stable. There is slight unfolding of the thoracic
   aorta.
   Hilar contours are unremarkable. There is a double- lumen dialysis
   catheter
   projecting over the right atrium. There has been interval resolution of
   the
   previously identified pneumoperitoneum. An IVC filter is again noted
   projecting in the right upper abdomen. A G-tube is also again
   identified in the left upper abdomen.
   IMPRESSION: Indistinctness of the left heart border which may be
   related to
   overlying soft tissue, but infection is not excluded.
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 DYSPNEA (SHORTNESS OF BREATH)
 GANGRENE
 HYPOTENSION (NOT SHOCK)
   .
   85 year old man, recently discharged from the intensive care unit, with
   history of prior DVT (now s/p IVC filter), HTN, CKD on HD, right lower
   extremity dry gangrene, presenting from clinic with hypotension and a
   pneumonia.
   .
   # Hypotension: Likely secondary to infection, and new infiltrate on
   chest xray and leukocytosis are concerning for pneumonia with early
   sepsis. Another source of the pt's leukocytosis may be the gangrenous
   right foot and indwelling HD line
   - Follow up blood cultures, sputum cultures
   - Continue broad spectrum abx (Vanc, Zosyn) pending cultures.
   - Appreciate vascular [**Doctor First Name 213**] recs; will make sure vasc aware that
   vasopressin on board
   - Maintain MAP above 60 with IVF and vasopressin. Responds to small
   amounts of IVF so no need for CVL placement at this time.
   - Monitor U/O
   .
   # Elevation in troponin: Troponin T is currently at recent baseline
   (0.26-0.37). Chronically elevated troponins likely secondary to chronic
   renal failure. No chest pain, no change on EKG.
   - Check second trop to make sure trending down
   .
   # Chronic Renal Failure: On recent discharge creatinine was 2.8, but
   had ranged from 1.8 to 3.5. Pt is likely at baseline creatinine.
   - Plan for HD tomorrow per renal
   -
   # CAD: Currently on ASA, statin and verapamil.
   - Continue ASA and statin
   - Hold verapamil in the setting of hypotension
   .
   # PVD: Vascular following.
   - Discuss with vascular plan for R AKA.
   .
   # Seizure d/o ([**1-15**] SDH):  Currently on keppra.
   - Continue keppra at home dose.
   .
   # Glaucoma: Continue eye drops
   - Home Xalatan and timolol
   .
   # Pain control: Unclear if chronic pain [**1-15**] right foot or other cause.
   Pt c/o pain on admission to the ICU.
   - Percocet for pain now
   - Hold fentanyl patch given hypotension and altered mental status
   .
   # FEN: NPO for now as altered mental status.
   - Advance diet as mental status clears
   - replete lytes prn
   .
   PPX:
   -DVT ppx with subcutaneous heparin
   -Bowel regimen senna, colace
   -Pain management with percocet as above
   .
   ACCESS: PIV's and right tunneled HD catheter
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT: [**Name (NI) **]
   .
   DISPOSITION: ICU given hypotension
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-28**] 05:23 PM
   18 Gauge - [**2181-2-28**] 05:24 PM
   Dialysis Catheter - [**2181-2-28**] 07:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:  ICU

2181-03-02 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2181-3-1**] 08:21 PM
   - HD started prior to CVL placement but became too hypotensive to
   tolerate. CVL placed afterwards for central pressor access.
   - Renal will redialyze today
   - Vasc surgery does not think infection [**1-15**] dry gangrene
   - Pt became hypotensive and now is on levophed and vasopresin
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-3-1**] 05:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-2**] 05:45 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-3-1**] 11:14 AM
   Heparin Sodium (Prophylaxis) - [**2181-3-1**] 10:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-2**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 83 (69 - 89) bpm
   BP: 80/31(42) {66/31(42) - 143/80(86)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 11)mmHg
   Total In:
                                                                  1,304 mL
                                                                    691 mL
   PO:
   TF:
   IVF:
                                                                    684 mL
                                                                    691 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    225 mL
                                                                     15 mL
   Urine:
                                                                     25 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,079 mL
                                                                    676 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   GENERAL: Elderly man, decorticate posturing, but moving upper
   extremities
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No Neck:
   supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales,
   ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: cool feet bilaterally w/ right foot gangrene, LLE swelling w/ +2
   edema, not able to palpate pedal pulses; doplerable LLE dp/pt and R dp.
   Labs / Radiology
   329 K/uL
   8.1 g/dL
   82 mg/dL
   3.5 mg/dL
   21 mEq/L
   4.7 mEq/L
   77 mg/dL
   94 mEq/L
   132 mEq/L
   24.8 %
   14.0 K/uL
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
                             [**2181-3-1**]  05:24 AM
                             [**2181-3-1**]  02:15 PM
                             [**2181-3-2**]  05:23 AM
   WBC
   14.0
   14.0
   Hct
   28.3
   24.8
   Plt
   317
   329
   Cr
   3.5
   3.5
   TropT
   0.24
   Glucose
   83
   82
   Other labs: PT / PTT / INR:14.7/68.8/1.3, CK / CKMB /
   Troponin-T:65/4/0.24, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   85 year old man, recently discharged from the intensive care unit, with
   history of prior DVT (now s/p IVC filter), HTN, CKD on HD, right lower
   extremity dry gangrene, presenting from clinic with hypotension and a
   pneumonia.
   # Leukocytosis, likely Pneumonia is cause of leukocytosis, and new
   infiltrate on chest xray causing hypotension. Vasc surgery does not
   believe gangrenous right foot is source of infection, and indwelling HD
   line is less likely.
   - continue survellence blood cx
   - Follow up blood cultures, sputum cultures
   - Continue broad spectrum abx (Vanc, Zosyn day # 2 pending cultures.
   .
   # Hypotension: Likely secondary to infection and due to volume taken
   off from dialysis. Pt currently on levophed and vasopressin.  Pt had 1L
   taken off from dialysis today.
   - MAP > 60
   - f/u CVP and give IVF as needed.
   - f/u UOP
   # Anemia
 Hct now 24.8 from 28.3, This was prior to dialysis and may
   have been hemodiluted currently at 24. Do not believe pt is currently
   has GIB. Pt
s anemia also likely [**1-15**] CKD.
   - will moniter
   .
   # Chronic Renal Failure: On recent discharge creatinine was 2.8, but
   had ranged from 1.8 to 3.5. Pt is likely at baseline creatinine.
   - HD today
   - pt has elevated eos, will check med list, intersitial nephritis may
   be contributing.
 also repeating diff for recent eos
   - d/c
d Calcium as phos now low.
   # CAD: Currently on ASA, statin and verapamil. CE neg Troponin T is
   currently at recent baseline (0.26-0.37). Chronically elevated
   troponins likely secondary to chronic renal failure. No chest pain, no
   change on EKG.
   - Continue ASA and statin
   - Hold verapamil in the setting of hypotension
   .
   # PVD: Vascular following.
   - Discuss with vascular plan for R AKA.
   .
   # Seizure d/o ([**1-15**] SDH):  Currently on keppra.
   - Continue keppra at home dose.
   .
   # Glaucoma: Continue eye drops
   - Home Xalatan and timolol
   .
   # Pain control: Unclear if chronic pain [**1-15**] right foot or other cause.
   Pt c/o pain on admission to the ICU.
   - Percocet for pain now
   - Hold fentanyl patch given hypotension and altered mental status
   .
   # FEN: starting TF
   .
   PPX:
   -DVT ppx with subcutaneous heparin
   -Bowel regimen senna, colace
   -Pain management with percocet as above
   .
   ACCESS: PIV's and right tunneled HD catheter
   .
   CODE STATUS: Presumed full
   .
   EMERGENCY CONTACT: [**Name (NI) **]
   .
   DISPOSITION: ICU given hypotension
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-2-28**] 05:23 PM
   18 Gauge - [**2181-2-28**] 05:24 PM
   Dialysis Catheter - [**2181-2-28**] 07:00 PM
   Multi Lumen - [**2181-3-1**] 08:21 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition:  ICU

2181-03-03 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 85 year old man, recently discharged from the
   intensive care unit, with history of prior DVT (now s/p IVC filter),
   HTN, CKD on HD, right lower extremity dry gangrene, presenting from
   clinic with hypotension and a pneumonia.
   24 Hour Events:
 BLOOD CULTURED - At [**2181-3-2**] 11:20 AM
 BLOOD CULTURED - At [**2181-3-2**] 11:30 AM
 MULTI LUMEN - STOP [**2181-3-2**] 11:00 PM
   - Hct 22.9 in evening gave 1 unit PRBC
   - cx - coag neg staph
   - renal: check vanc trough, redose if < 15, d/c ca carb
   - eosinophilia 21% - checking stool O&Px3, and urine eos (cholesterol
   emboli vs. meds)
   - Pt agitated and pulled out his L IJ around MN - no significant
   bleeding, no AMS afterwards. Gave vasopresin via PIV, and 2nd PIV
   obtained and gave pt's 1u PRBC through that. Old IV from OSH taken out.
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-3-1**] 05:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-3**] 06:31 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-3-2**] 09:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-3**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 80 (70 - 88) bpm
   BP: 119/66(78) {67/43(48) - 136/83(110)} mmHg
   RR: 5 (5 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 81 kg
    CVP: 16 (2 - 16)mmHg
   Total In:
                                                                  1,872 mL
                                                                    810 mL
   PO:
   TF:
                                                                     40 mL
                                                                    120 mL
   IVF:
                                                                  1,597 mL
                                                                    215 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,555 mL
                                                                      0 mL
   Urine:
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    317 mL
                                                                    810 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   GENERAL: Elderly man, decorticate posturing, but moving upper
   extremities
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No Neck:
   supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales,
   ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: cool feet bilaterally w/ right foot gangrene, LLE swelling w/ +2
   edema, not able to palpate pedal pulses; doplerable LLE dp/pt and R
   dp.
   Labs / Radiology
   271 K/uL
   8.7 g/dL
   82 mg/dL
   3.5 mg/dL
   21 mEq/L
   4.7 mEq/L
   77 mg/dL
   94 mEq/L
   132 mEq/L
   26.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
                             [**2181-3-1**]  05:24 AM
                             [**2181-3-1**]  02:15 PM
                             [**2181-3-2**]  05:23 AM
                             [**2181-3-2**]  02:58 PM
                             [**2181-3-3**]  04:40 AM
   WBC
   14.0
   14.0
   11.6
   Hct
   28.3
   24.8
   22.9
   26.2
   Plt
   [**Telephone/Fax (3) 6420**]
   Cr
   3.5
   3.5
   TropT
   0.24
   Glucose
   83
   82
   Other labs: PT / PTT / INR:14.7/68.8/1.3, CK / CKMB /
   Troponin-T:65/4/0.24, Differential-Neuts:62.9 %, Lymph:10.4 %, Mono:5.2
   %, Eos:21.4 %, Ca++:8.1 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Microbiology: [**2181-3-2**] 9:37 pm STOOL
      OVA + PARASITES (Pending):
   [**2181-2-28**] 1:00 pm BLOOD CULTURE      2 OF 2.
   Blood Culture, Routine (Preliminary):
         STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET
   ONLY.    Aerobic Bottle Gram Stain (Final [**2181-3-1**]):
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 DYSPNEA (SHORTNESS OF BREATH)
 GANGRENE
 HYPOTENSION (NOT SHOCK)
   85 year old man, recently discharged from the intensive care unit, with
   history of prior DVT (now s/p IVC filter), HTN, CKD on HD, right lower
   extremity dry gangrene, presenting from clinic with hypotension and a
   pneumonia.
   # Leukocytosis, likely Pneumonia is cause of leukocytosis, and new
   infiltrate on chest xray causing hypotension. Vasc surgery does not
   believe gangrenous right foot is source of infection, and indwelling HD
   line is less likely.
   - continue survellence blood cx
   - Follow up blood cultures, sputum cultures
   - Continue broad spectrum abx (Vanc, Zosyn day # 2 pending cultures.
   # Hypotension: Likely secondary to infection and due to volume taken
   off from dialysis. Pt currently on levophed and vasopressin.  Pt had 1L
   taken off from dialysis today.
   - MAP > 60
   - f/u CVP and give IVF as needed.
   - f/u UOP
   # Anemia
 Hct now 24.8 from 28.3, This was prior to dialysis and may
   have been hemodiluted currently at 24. Do not believe pt is currently
   has GIB. Pt
s anemia also likely [**1-15**] CKD.
   - will moniter
   # Chronic Renal Failure: On recent discharge creatinine was 2.8, but
   had ranged from 1.8 to 3.5. Pt is likely at baseline creatinine.
   - HD today
   - pt has elevated eos, will check med list, intersitial nephritis may
   be contributing.
 also repeating diff for recent eos
   - d/c
d Calcium as phos now low.
   # CAD: Currently on ASA, statin and verapamil. CE neg Troponin T is
   currently at recent baseline (0.26-0.37). Chronically elevated
   troponins likely secondary to chronic renal failure. No chest pain, no
   change on EKG.
   - Continue ASA and statin
   - Hold verapamil in the setting of hypotension
   # PVD: Vascular following.
   - Discuss with vascular plan for R AKA.
   # Seizure d/o ([**1-15**] SDH):  Currently on keppra.
   - Continue keppra at home dose.
   # Glaucoma: Continue eye drops
   - Home Xalatan and timolol
   # Pain control: Unclear if chronic pain [**1-15**] right foot or other cause.
   Pt c/o pain on admission to the ICU.
   - Percocet for pain now
   - Hold fentanyl patch given hypotension and altered mental status
   # FEN: starting TF
   PPX:
   -DVT ppx with subcutaneous heparin
   -Bowel regimen senna, colace
   -Pain management with percocet as above
   ACCESS: PIV's and right tunneled HD catheter
   CODE STATUS: Presumed full
   EMERGENCY CONTACT: [**Name (NI) **]
   DISPOSITION: ICU given hypotension
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2181-3-2**] 08:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-2-28**] 05:24 PM
   Dialysis Catheter - [**2181-2-28**] 07:00 PM
   20 Gauge - [**2181-3-3**] 01:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-03-03 11:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2181-3-2**] 11:20 AM
 BLOOD CULTURED - At [**2181-3-2**] 11:30 AM
 MULTI LUMEN - STOP [**2181-3-2**] 11:00 PM pulled out CVL
   blood cultures positive
   still on vasopressin for hypotension
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Fluconazole - [**2181-3-1**] 05:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-3**] 06:31 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-3-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-3**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 82 (73 - 88) bpm
   BP: 118/66(71) {67/43(48) - 136/83(110)} mmHg
   RR: 12 (5 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 81 kg
   CVP: 16 (2 - 16)mmHg
   Total In:
                                                                  1,872 mL
                                                                  1,145 mL
   PO:
   TF:
                                                                     40 mL
                                                                    210 mL
   IVF:
                                                                  1,597 mL
                                                                    280 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,555 mL
                                                                      0 mL
   Urine:
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    317 mL
                                                                  1,145 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: gangrenous toes
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   271 K/uL
   114 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   53 mg/dL
   98 mEq/L
   137 mEq/L
   26.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
                             [**2181-3-1**]  05:24 AM
                             [**2181-3-1**]  02:15 PM
                             [**2181-3-2**]  05:23 AM
                             [**2181-3-2**]  02:58 PM
                             [**2181-3-3**]  04:40 AM
   WBC
   14.0
   14.0
   11.6
   Hct
   28.3
   24.8
   22.9
   26.2
   Plt
   [**Telephone/Fax (3) 6420**]
   Cr
   3.5
   3.5
   3.0
   TropT
   0.24
   Glucose
   83
   82
   114
   Other labs: PT / PTT / INR:14.7/68.8/1.3, CK / CKMB /
   Troponin-T:65/4/0.24, Differential-Neuts:62.9 %, Lymph:10.4 %, Mono:5.2
   %, Eos:21.4 %, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE) - continue HD
 GANGRENE continue current care for now, not suitable for surgery
 HYPOTENSION  - likely related to sepsis, wean vasopressin, micro eval
   uncovered coag negative staph from blood - ? line infection, ? toes as
   source, will commit to 14 day course of abx and follow cultures
   nutrition - on TFs
   eosinophilia - ? meds, doubt infection, adrenal failure, HES, CSS etc.
   ICU Care
   Nutrition:  TFs
   Glycemic Control:
   Lines:
   18 Gauge - [**2181-2-28**] 05:24 PM
   Dialysis Catheter - [**2181-2-28**] 07:00 PM
   20 Gauge - [**2181-3-3**] 01:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2181-03-04 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   85 year old man, recently discharged from the intensive care unit, with
   history of prior DVT (now s/p IVC filter), HTN, CKD on HD, right lower
   extremity dry gangrene, presenting from clinic with hypotension and a
   pneumonia.
   24 Hour Events:
   - On vasopressin via PIV again
   - Got HD
   - Unable to go off vasopressin because of HD
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-3**] 10:00 PM
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-3-3**] 02:00 PM
   Flowsheet Data as of  [**2181-3-4**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 96 (69 - 96) bpm
   BP: 110/58(67) {83/49(57) - 145/82(94)} mmHg
   RR: 24 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 81 kg
             Total In:
                                                                  2,167 mL
                                                                    374 mL
   PO:
             TF:
                                                                    750 mL
                                                                    284 mL
   IVF:
                                                                    662 mL
                                                                     90 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,167 mL
                                                                    374 mL
   Physical Examination
   GENERAL: Elderly man, decorticate posturing, but moving upper
   extremities
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No Neck:
   supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales,
   ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: cool feet bilaterally w/ right foot gangrene, LLE swelling w/ +2
   edema, not able to palpate pedal pulses; doplerable LLE dp/pt and R
   dp.
   Labs / Radiology
   258 K/uL
   9.2 g/dL
   137 mg/dL
   3.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   60 mg/dL
   99 mEq/L
   138 mEq/L
   27.9 %
   13.7 K/uL
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
                             [**2181-3-1**]  05:24 AM
                             [**2181-3-1**]  02:15 PM
                             [**2181-3-2**]  05:23 AM
                             [**2181-3-2**]  02:58 PM
                             [**2181-3-3**]  04:40 AM
                             [**2181-3-4**]  03:53 AM
   WBC
   14.0
   14.0
   11.6
   13.7
   Hct
   28.3
   24.8
   22.9
   26.2
   27.9
   Plt
   [**Telephone/Fax (3) 6440**]58
   Cr
   3.5
   3.5
   3.0
   3.4
   TropT
   0.24
   Glucose
   83
   82
   114
   137
   Other labs: PT / PTT / INR:14.7/68.8/1.3, CK / CKMB /
   Troponin-T:65/4/0.24, Differential-Neuts:62.9 %, Lymph:10.4 %, Mono:5.2
   %, Eos:21.4 %, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 DYSPNEA (SHORTNESS OF BREATH)
 GANGRENE
 HYPOTENSION (NOT SHOCK)
   85 year old man, recently discharged from the intensive care unit, with
   history of prior DVT (now s/p IVC filter), HTN, CKD on HD, right lower
   extremity dry gangrene, presenting from clinic with hypotension and a
   pneumonia.
   # Leukocytosis: Likely line infection, versus pneumonia. Vasc surgery
   does not believe gangrenous right foot is source of infection, and
   indwelling HD line is less likely.
   - continue survellence blood cx
   - Vanc for presumed line infection as blood growing coag neg staph.
   Treat for 2wk course.
   # Hypotension: Likely secondary to infection and due to volume taken
   off from dialysis. Pt currently on levophed and vasopressin.  Pt had 1L
   taken off from dialysis [**3-2**].
   - MAP > 60
   # Anemia
 Continue to trend.
   - Guaiac stools
   # Chronic Renal Failure: On recent discharge creatinine was 2.8, but
   had ranged from 1.8 to 3.5. Pt is likely at baseline creatinine.
   - HD per renal; most recent was [**3-2**]
   # CAD: Currently on ASA, statin and verapamil. CE neg Troponin T is
   currently at recent baseline (0.26-0.37). Chronically elevated
   troponins likely secondary to chronic renal failure. No chest pain, no
   change on EKG.
   - Continue ASA and statin
   - Hold verapamil in the setting of hypotension
   # PVD: Vascular following.
   - Discuss with vascular plan for R AKA.
   # Seizure d/o ([**1-15**] SDH):  Currently on keppra.
   - Continue keppra at home dose.
   # Glaucoma: Continue eye drops
   - Home Xalatan and timolol
   # Pain control: Unclear if chronic pain [**1-15**] right foot or other cause.
   Pt c/o pain on admission to the ICU.
   - Percocet for pain now
   - Hold fentanyl patch given hypotension and altered mental status
   # FEN: starting TF
   PPX:
   -DVT ppx with subcutaneous heparin
   -Bowel regimen senna, colace
   -Pain management with percocet as above
   ACCESS: PIV's and right tunneled HD catheter
   CODE STATUS: Presumed full
   EMERGENCY CONTACT: [**Name (NI) **]
   DISPOSITION: ICU given hypotension
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2181-3-4**] 04:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-28**] 07:00 PM
   20 Gauge - [**2181-3-4**] 04:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-03-04 10:52:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   vasopressin stopped this morning
   HD yesterday
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-3**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-3-3**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-4**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 86 (69 - 96) bpm
   BP: 100/60(69) {83/49(57) - 145/82(94)} mmHg
   RR: 22 (0 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 81 kg
             Total In:
                                                                  2,167 mL
                                                                    640 mL
   PO:
             TF:
                                                                    750 mL
                                                                    433 mL
   IVF:
                                                                    662 mL
                                                                    127 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                      0 mL
                                                                     20 mL
   Urine:
   20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,167 mL
                                                                    621 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, g-tube
   Extremities: gangrenous right foot
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   258 K/uL
   137 mg/dL
   3.4 mg/dL
   23 mEq/L
   3.8 mEq/L
   60 mg/dL
   99 mEq/L
   138 mEq/L
   27.9 %
   13.7 K/uL
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
                             [**2181-3-1**]  05:24 AM
                             [**2181-3-1**]  02:15 PM
                             [**2181-3-2**]  05:23 AM
                             [**2181-3-2**]  02:58 PM
                             [**2181-3-3**]  04:40 AM
                             [**2181-3-4**]  03:53 AM
   WBC
   14.0
   14.0
   11.6
   13.7
   Hct
   28.3
   24.8
   22.9
   26.2
   27.9
   Plt
   [**Telephone/Fax (3) 6440**]58
   Cr
   3.5
   3.5
   3.0
   3.4
   TropT
   0.24
   Glucose
   83
   82
   114
   137
   Other labs: PT / PTT / INR:14.7/68.8/1.3, CK / CKMB /
   Troponin-T:65/4/0.24, Differential-Neuts:62.9 %, Lymph:10.4 %, Mono:5.2
   %, Eos:21.4 %, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE) - continue HD
 GANGRENE continue current care for now, not suitable for surgery
 HYPOTENSION  - likely related to sepsis, off vasopressin - follow BP,
   micro eval uncovered coag negative staph from blood - ? line infection,
   ? toes as source, will commit to 14 day course of abx and follow
   cultures
   nutrition - on TFs
   eosinophilia - ? meds, doubt infection, adrenal failure, HES, CSS etc.,
   repeat
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2181-3-4**] 04:36 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-28**] 07:00 PM
   20 Gauge - [**2181-3-4**] 04:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2181-03-05 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 85 year old man, recently discharged from the
   intensive care unit, with history of prior DVT (now s/p IVC filter),
   HTN, CKD on HD, right lower extremity dry gangrene, presenting from
   clinic with hypotension and a pneumonia.
   24 Hour Events:
   - was off vasopressin overnight but had to restart again in AM for SBP
   70s, asymptomatic, still via PIV as no central access.
   - Requested PICC for tomorrow (afebrile and no positive cultures since
   18th)
   - Checking AM differential to reeval eosinophilia
   - Vascular: no new recs, following from afar
   - Renal: plan for HD tomorrow, will dose Vanc
   - discussion re: dc foley, was placed by urology in setting of scrotal
   swelling and suprapubic pain due to bladder spasm from irrigation. No
   other information found so foley left in place. Awaiting [**Last Name (un) 6447**] to
   visit so he can clarify foley need.
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2181-3-4**] 10:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-5**] 05:50 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-3-4**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-5**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 94 (73 - 127) bpm
   BP: 98/69(75) {75/41(51) - 144/90(95)} mmHg
   RR: 19 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 81 kg
             Total In:
                                                                  1,557 mL
                                                                    474 mL
   PO:
             TF:
                                                                    972 mL
                                                                    300 mL
   IVF:
                                                                    405 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                      0 mL
   Urine:
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                    474 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   10.4 g/dL
   123 mg/dL
   3.8 mg/dL
   24 mEq/L
   3.4 mEq/L
   68 mg/dL
   96 mEq/L
   135 mEq/L
   31.9 %
   14.1 K/uL
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
                             [**2181-3-1**]  05:24 AM
                             [**2181-3-1**]  02:15 PM
                             [**2181-3-2**]  05:23 AM
                             [**2181-3-2**]  02:58 PM
                             [**2181-3-3**]  04:40 AM
                             [**2181-3-4**]  03:53 AM
                             [**2181-3-5**]  03:54 AM
   WBC
   14.0
   14.0
   11.6
   13.7
   14.1
   Hct
   28.3
   24.8
   22.9
   26.2
   27.9
   31.9
   Plt
   [**Telephone/Fax (3) 6440**]58
   238
   Cr
   3.5
   3.5
   3.0
   3.4
   3.8
   TropT
   0.24
   Glucose
   83
   82
   114
   137
   123
   Other labs: PT / PTT / INR:13.9/37.1/1.2, CK / CKMB /
   Troponin-T:65/4/0.24, Differential-Neuts:62.0 %, Band:0.0 %, Lymph:4.0
   %, Mono:5.0 %, Eos:27.0 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 DYSPNEA (SHORTNESS OF BREATH)
 GANGRENE
 HYPOTENSION (NOT SHOCK)
   85 year old man, recently discharged from the intensive care unit, with
   history of prior DVT (now s/p IVC filter), HTN, CKD on HD, right lower
   extremity dry gangrene, presenting from clinic with hypotension and a
   pneumonia.
   # Leukocytosis: Likely line infection, versus pneumonia. Vasc surgery
   does not believe gangrenous right foot is source of infection, and
   indwelling HD line is less likely.
   - continue survellence blood cx
   - Vanc for presumed line infection as blood growing coag neg staph.
   Treat for 2wk course.
   # Eosinophilia: Unclear etiology. O+P pending. [**Month (only) 51**] be Zosyn, d/c
   Zosyn, trend.
   - will recheck preripheral diff tomorrow.
 HYPOTENSION (NOT SHOCK): Likely secondary to infection and due to
   volume taken off from dialysis. Off vasopressin yesterday, back on this
   am during HD.
   - MAP > 60
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE):
   - HD per renal
   - f/u renal recs
   - would like to DC follow if ok with urology
 some difficulty placing
   it recently.
   # PVD/
 GANGRENE: plan for AKA
   - f/u vascular recs
   # CAD:
   - Continue ASA and statin
   - Hold verapamil in the setting of hypotension
    # Anemia
 Stable
   # Seizure d/o ([**1-15**] SDH):  Currently on keppra.
   - Continue keppra at home dose.
   # Pain control: Denies pain today
   - Percocet for pain now
   - Hold fentanyl patch given hypotension and altered mental status
   # FEN: Tufe feeds
   PPX:
   -DVT ppx with subcutaneous heparin
   -Bowel regimen senna, colace
   -Pain management with percocet as above
    ACCESS: PIV's and right tunneled HD catheter
   CODE STATUS: Presumed full
   EMERGENCY CONTACT: [**Name (NI) **]
   DISPOSITION: ICU given hypotension
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2181-3-5**] 04:59 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-28**] 07:00 PM
   20 Gauge - [**2181-3-4**] 04:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Physical exam:
   GENERAL: Elderly man, decorticate posturing, but moving upper
   extremities
   HEENT: Normocephalic, atraumatic.  No conjunctival pallor. No scleral
   icterus. PERRLA/EOMI. MMM. OP clear.  Neck Supple, No LAD, No Neck:
   supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales,
   ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
   gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding, no organomegaly
   Ext: cool feet bilaterally w/ right foot gangrene, LLE swelling w/ +2
   edema, not able to palpate pedal pulses; doplerable LLE dp/pt and R
   dp.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2001**] [**Last Name (NamePattern1) 6238**], MD
   on:[**2181-3-5**] 14:23 ------

2181-03-06 06:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2181-3-5**] 05:18 PM
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2181-3-4**] 10:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-5**] 05:50 AM
   Vancomycin - [**2181-3-5**] 10:30 PM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Adenosine - [**2181-3-5**] 12:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-6**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 79 (72 - 161) bpm
   BP: 83/57(64) {79/22(34) - 137/123(126)} mmHg
   RR: 19 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 81 kg (admission): 81 kg
             Total In:
                                                                  2,260 mL
                                                                    293 mL
   PO:
             TF:
                                                                    535 mL
                                                                    149 mL
   IVF:
                                                                  1,445 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                     50 mL
   Urine:
   50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    760 mL
                                                                    243 mL
   Respiratory support
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Gen: WDWN elderly male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with elevated JVP
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. crackles in the right lower base.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: 3+ lower extremity edema bilaterally and symmetric; left upper
   extremity greater in size than right upper extremity
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   238 K/uL
   9.1 g/dL
   112 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   47 mg/dL
   100 mEq/L
   139 mEq/L
   27.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
                             [**2181-3-1**]  05:24 AM
                             [**2181-3-1**]  02:15 PM
                             [**2181-3-2**]  05:23 AM
                             [**2181-3-2**]  02:58 PM
                             [**2181-3-3**]  04:40 AM
                             [**2181-3-4**]  03:53 AM
                             [**2181-3-5**]  03:54 AM
                             [**2181-3-5**]  12:08 PM
                             [**2181-3-6**]  05:00 AM
   WBC
   14.0
   14.0
   11.6
   13.7
   14.1
   13.1
   Hct
   28.3
   24.8
   22.9
   26.2
   27.9
   31.9
   27.2
   Plt
   [**Telephone/Fax (3) 6440**]58
   238
   238
   Cr
   3.5
   3.5
   3.0
   3.4
   3.8
   1.8
   2.8
   TropT
   0.24
   Glucose
   83
   82
   114
   137
   123
   130
   112
   Other labs: PT / PTT / INR:13.9/37.1/1.2, CK / CKMB /
   Troponin-T:65/4/0.24, Differential-Neuts:74.6 %, Band:0.0 %, Lymph:14.8
   %, Mono:4.7 %, Eos:5.3 %, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment/Plan:
   86yo male with multiple medical problems including bladder cancer s/p
   removal, hypertension, ESRD on HD, DVT, SDH while on anticoagulation,
   and right lower extremity gangrene was transferred to the CCU for
   further management of arrhythmia.
   Tachycardia
   Now resolved and has first degree AV block. Etiology of his tachycardia
   is unclear. One of his ECGs appears consistent with AVNRT with
   retrograde P waves; however, other ECGs appear more consistent with
   atrial tachycardia. Pt s/p adenosine in HD when this started. Patient's
   tachycardia may have been related to the vasopressin he received and/or
   electrolyte abnormalities in the setting of HD.
   - discontinue amiodarone since no clear indication
   - daily ECG, telemetry
   Hypotension
   Etiology of his hypotension is unclear. Sepsis is possible, patient has
   1 positive blood culture for coag negative staph. Additional
   possibility includes a line infection or super infection of her right
   lower extremity wound. hypovolemia in the setting of hemodialysis also
   possible. No echocardiographic evidence of tamponade.
   - follow-up blood and stool cultures
   - resend sputum sample if able
   - consider repeat echocardiogram
   Coag negative staph bacteremia:
 bottles positive. Considering line infection, but it is likely a
   contaminant. Will keep HD line in for now, since it is a new line, and
   only
 bottles
   - continue vancomycin to complete a 14 day course for presumed line
   infection ([**Date range (1) 6463**])
   Left arm swelling: left UE ultrasound
   Rash: possibly related to zosyn that he was on in the [**Hospital Unit Name 1**].
   Congestive heart failure: EF 50%
   Patient euvolemic, possibly intravascularly dry given hypotension.
   - continue to maintain fluid status with hemodialysis
   CAD
   Patient has no specific history of CAD, although has likely presumed
   CAD in the setting of marked peripheral vascular disease.
   - continue aspirin and statin
   ESRD
   Patient has ESRD for unclear reasons.
   - appreciate renal recs
   - continue HD
   RLE dry gangrene
   Patient needs right AKA per vascular surgery recommendations when
   patient is "medically stable."
   - appreciate vascular input, will f/u with then regarding plan for
   timing of surgery
   Seizures
   Patient has had seizures thought likely related to subarachnoid
   hemorrhage in the setting of heparin drip.
   - continue keppra
   Chronic Pain
   Patient has pain likely related to his right foot. He appears in
   moderate control of his pain.
   - continue percocet and fentanyl patch
   Glaucoma
   Stable
   - continue eye drops
    Eosinophilia
   Patient has elevated peripheral eosinophils for unclear reasons.
   Etiology is unclear but most likely related to medication effect.
   - continue to trend
   - follow-up strongyloides antibody
   - consider discontinuing vancomycin if no clear indication and if
   eosinophilia persists
   #. Access: PICC, Dialysis Catheter
   #. FEN: Cardiac diet, replete lytes prn
   #. PPx: heparin SC, fall precautions, bowel regimen prn.
   #. Code: FULL CODE
   #. Dispo: ICU for now pending improvement in heart rate and blood
   pressure
   #. Communication:  Patient; Son [**Name (NI) 5323**] [**Name (NI) 5939**] [**Telephone/Fax (1) 6481**]
   ------ Protected Section ------
   Pt  examined on rounds agree with above plan
   ------ Protected Section Addendum Entered By:[**Name (NI) **] dow  on:[**2181-3-6**]
   10:24 ------

2181-03-07 04:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2181-3-6**] 08:39 AM
   -Per vascular, AKA would be high risk of mortality and would not take
   until stable on floor but probably not even then. -LUE US: No DVT left
   arm
   -CXR: Since [**2181-3-4**], right PICC was installed ending in the mid
   SVC. Right hemodialysis catheter still ends in unchanged position. A
   gastrostomy tube and an IVC filter are in place. Volume overload
   improved. Left lower lobe opacity associated with small pleural
   effusion slightly increased, likely due to adjacent atelectasis.
   -Renal wanted to DC KVO on PICC ut nursing reports need KVO to maintain
   access line
   -Also having some hematuria with clots irrigated. Bladder scanned with
   only 23 cc urine
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2181-3-4**] 10:07 PM
   Piperacillin/Tazobactam (Zosyn) - [**2181-3-5**] 05:50 AM
   Vancomycin - [**2181-3-5**] 10:30 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-3-6**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2181-3-6**] 10:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-7**] 04:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.6
   HR: 92 (78 - 93) bpm
   BP: 102/66(75) {78/45(54) - 121/69(93)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 81 kg (admission): 81 kg
             Total In:
                                                                  1,455 mL
                                                                    297 mL
   PO:
             TF:
                                                                    854 mL
                                                                    197 mL
   IVF:
                                                                    371 mL
                                                                     49 mL
   Blood products:
   Total out:
                                                                     55 mL
                                                                      0 mL
   Urine:
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,400 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: WDWN elderly male in NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with elevated JVP
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. crackles in the right lower base.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: 3+ lower extremity edema bilaterally and symmetric; left upper
   extremity greater in size than right upper extremity
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   238 K/uL
   9.1 g/dL
   112 mg/dL
   2.8 mg/dL
   25 mEq/L
   4.3 mEq/L
   47 mg/dL
   100 mEq/L
   139 mEq/L
   27.2 %
   13.1 K/uL
        [image002.jpg]
                             [**2181-3-1**]  12:57 AM
                             [**2181-3-1**]  05:24 AM
                             [**2181-3-1**]  02:15 PM
                             [**2181-3-2**]  05:23 AM
                             [**2181-3-2**]  02:58 PM
                             [**2181-3-3**]  04:40 AM
                             [**2181-3-4**]  03:53 AM
                             [**2181-3-5**]  03:54 AM
                             [**2181-3-5**]  12:08 PM
                             [**2181-3-6**]  05:00 AM
   WBC
   14.0
   14.0
   11.6
   13.7
   14.1
   13.1
   Hct
   28.3
   24.8
   22.9
   26.2
   27.9
   31.9
   27.2
   Plt
   [**Telephone/Fax (3) 6440**]58
   238
   238
   Cr
   3.5
   3.5
   3.0
   3.4
   3.8
   1.8
   2.8
   TropT
   0.24
   Glucose
   83
   82
   114
   137
   123
   130
   112
   Other labs: PT / PTT / INR:13.9/37.1/1.2, CK / CKMB /
   Troponin-T:65/4/0.24, Differential-Neuts:74.6 %, Band:0.0 %, Lymph:14.8
   %, Mono:4.7 %, Eos:5.3 %, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Assessment/Plan:
   86yo male with multiple medical problems including bladder cancer s/p
   removal, hypertension, ESRD on HD, DVT, SDH while on anticoagulation,
   and right lower extremity gangrene was transferred to the CCU for
   further management of arrhythmia.
   Tachycardia
   Now resolved and has first degree AV block. Etiology of his tachycardia
   is unclear. One of his ECGs appears consistent with AVNRT with
   retrograde P waves; however, other ECGs appear more consistent with
   atrial tachycardia. Pt s/p adenosine in HD when this started. Patient's
   tachycardia may have been related to the vasopressin he received and/or
   electrolyte abnormalities in the setting of HD.
   - discontinue amiodarone since no clear indication
   - daily ECG, telemetry
   Hypotension
   Etiology of his hypotension is unclear. Sepsis is possible, patient has
   1 positive blood culture for coag negative staph. Additional
   possibility includes a line infection or super infection of her right
   lower extremity wound. hypovolemia in the setting of hemodialysis also
   possible. No echocardiographic evidence of tamponade.
   - follow-up blood and stool cultures
   - resend sputum sample if able
   - consider repeat echocardiogram
   Coag negative staph bacteremia:
 bottles positive. Considering line infection, but it is likely a
   contaminant. Will keep HD line in for now, since it is a new line, and
   only
 bottles
   - continue vancomycin to complete a 14 day course for presumed line
   infection ([**Date range (1) 6463**])
   Left arm swelling: left UE ultrasound
   Rash: possibly related to zosyn that he was on in the [**Hospital Unit Name 1**].
   Congestive heart failure: EF 50%
   Patient euvolemic, possibly intravascularly dry given hypotension.
   - continue to maintain fluid status with hemodialysis
   CAD
   Patient has no specific history of CAD, although has likely presumed
   CAD in the setting of marked peripheral vascular disease.
   - continue aspirin and statin
   ESRD
   Patient has ESRD for unclear reasons.
   - appreciate renal recs
   - continue HD
   RLE dry gangrene
   Patient needs right AKA per vascular surgery recommendations when
   patient is "medically stable."
   - appreciate vascular input, will f/u with then regarding plan for
   timing of surgery
   Seizures
   Patient has had seizures thought likely related to subarachnoid
   hemorrhage in the setting of heparin drip.
   - continue keppra
   Chronic Pain
   Patient has pain likely related to his right foot. He appears in
   moderate control of his pain.
   - continue percocet and fentanyl patch
   Glaucoma
   Stable
   - continue eye drops
    Eosinophilia
   Patient has elevated peripheral eosinophils for unclear reasons.
   Etiology is unclear but most likely related to medication effect.
   - continue to trend
   - follow-up strongyloides antibody
   - consider discontinuing vancomycin if no clear indication and if
   eosinophilia persists
   #. Access: PICC, Dialysis Catheter
   #. FEN: Cardiac diet, replete lytes prn
   #. PPx: heparin SC, fall precautions, bowel regimen prn.
   #. Code: FULL CODE
   #. Dispo: ICU for now pending improvement in heart rate and blood
   pressure
   #. Communication:  Patient; Son [**Name (NI) 5323**] [**Name (NI) 5939**] [**Telephone/Fax (1) 6481**]
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2181-3-7**] 01:55 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-2-28**] 07:00 PM
   20 Gauge - [**2181-3-5**] 01:27 PM
   PICC Line - [**2181-3-5**] 05:18 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: